US07977351B2
2-{3-[(2,3-Dihydroxy-propyl)-methyl-amino]-propyl}-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde (139 mg, 0.73 mmol) and 3-methylamino-1,2-propanediol (77 mg, 0.73 mmol) are reacted to provide the title compound as an oil (108 mg, 52%).

reactant | 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde | 0.73 mmol, 139 mg | O=C1OCC2=NC(=CC=C21)CCC=O | C10H9NO3
reactant | 3-methylamino-1,2-propanediol | 0.73 mmol, 77 mg | CNCC(CO)O | C4H11NO2
product | 2-{3-[(2,3-Dihydroxy-propyl)-methyl-amino]-propyl}-7H-furo[3,4-b]pyridin-5-one | 108 mg, 52% | OC(CN(CCCC1=CC=C2C(=N1)COC2=O)C)CO | C14H20N2O4
